US07459451B2
To a solution of bis(N-{[4-(5-bromo-3-pyridyl)-6-cyclopentyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N,N-diethylethanaminium) sulfate (102 mg) in MeOH (0.51 ml) was added sodium methoxide MeOH solution (2M, 0.14 ml) and refluxed for 2 days. The mixture was evaporated and the residue was purified with silica gel column chromatography to give 4-(5-bromo-3-pyridyl)-6-cyclopentyl-1-ethyl-5-(methoxymethyl)-1H-pyrazolo[3,4-b]pyridine as a colorless solid.

reactant | bis(N-{[4-(5-bromo-3-pyridyl)-6-cyclopentyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N,N-diethylethanaminium) sulfate | 102 mg | S(=O)(=O)([O-])[O-].BrC=1C=C(C=NC1)C1=C2C(=NC(=C1C[N+](CC)(CC)CC)C1CCCC1)N(N=C2)CC.BrC=2C=C(C=NC2)C2=C1C(=NC(=C2C[N+](CC)(CC)CC)C2CCCC2)N(N=C1)CC
reactant | MeOH | 0.51 ml | CO | CH4O
product | 4-(5-bromo-3-pyridyl)-6-cyclopentyl-1-ethyl-5-(methoxymethyl)-1H-pyrazolo[3,4-b]pyridine | BrC=1C=C(C=NC1)C1=C2C(=NC(=C1COC)C1CCCC1)N(N=C2)CC | C20H23BrN4O
